US07968573B2
A mixture of 8.86 g of N-methylisatoic anhydride, 5.73 g of ethyl carbazate and 25 ml of ethanol was heated to reflux for 2 hours. After the reaction mixture was allowed to around room temperature, ethyl acetate was added thereto and the mixture was washed with water two times. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was washed with methyl tert-butyl ether to obtain 5.99 g of N-(2-methylaminobenzoyl)-N′-ethoxycarbonylhydrazine of the formula:

reactant | N-methylisatoic anhydride | 8.86 g | CN1C=2C(C(=O)OC1=O)=CC=CC2 | C9H7NO3
reactant | ethyl carbazate | 5.73 g | C(NN)(=O)OCC | C3H8N2O2
reactant | ethanol | 25 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-methylaminobenzoyl)-N′-ethoxycarbonylhydrazine | 5.99 g | CNC1=C(C(=O)NNC(=O)OCC)C=CC=C1 | C11H15N3O3
